US04288447
Preparation of 1-Ethyl-2-amino-4-(2-dimethylaminoethyl)-3-phenylimidazolidine Dihydrochloride
To a 9.4 g (0.21 mole) of dimethylamine in 200 ml ethanol was added 20 g (0.0695 mole) of 4-(2-chloroethyl)-1-ethyl-2-imino-3-phenylimidazolidine hydrochloride and the solution heated to 100° C. in a steel bomb for 18 hours. The contents were concentrated on the rotary evaporator and the resulting residue partitioned between chloroform and dilute NaOH. The chloroform solution was concentrated and the residue dissolved in isobutyl methyl ketone which was acidified with ethereal HCl. The resulting crystals were recrystallized from isopropanol-isobutyl methyl ketone. Yield 7.8 g (37.8%); m.p. 252°-254° C.

reactant | dimethylamine | 0.21 mole, 9.4 g | CNC | C2H7N
reactant | 4-(2-chloroethyl)-1-ethyl-2-imino-3-phenylimidazolidine hydrochloride | 0.0695 mole, 20 g | Cl.ClCCC1N(C(N(C1)CC)=N)C1=CC=CC=C1
solvent | ethanol | 200 ml | C(C)O | C2H6O
product | 1-Ethyl-2-amino-4-(2-dimethylaminoethyl)-3-phenylimidazolidine Dihydrochloride | Cl.Cl.C(C)N1C(N(C(C1)CCN(C)C)C1=CC=CC=C1)N | InChI=1S/C15H26N4.2ClH/c1-4-18-12-14(10-11-17(2)3)19(15(18)16)13-8-6-5-7-9-13;;/h5-9,14-15H,4,10-12,16H2,1-3H3;2*1H
